US04140709
6-Hydroxyhexyl perfluoroisopropyl ether (15.5 g, 0.05 m) and sulfamic acid (5.1 g, 0.05 m) were combined and heated with stirring at 145° for one hour. Hexane (25 ml) was added to the cooled reaction mixture to remove unreacted alcohol. Filtration and vacuum drying gave a brown soft solid product, 6-hydroxyhexyl perfluoroisopropyl ether ammonium sulfate which was designated as Product I (B). IR analysis showed the following major absorption bands: 3200, 2935, 2860, 1430, 1210 cm-1.

reactant | 6-Hydroxyhexyl perfluoroisopropyl ether | 15.5 g | FC(C(F)(F)F)(C(F)(F)F)OCCCCCCO | C9H13F7O2
reactant | sulfamic acid | 5.1 g | S(N)(O)(=O)=O | H3NO3S
solvent | Hexane | 25 ml | CCCCCC | C6H14
product | 6-hydroxyhexyl perfluoroisopropyl ether ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].FC(C(F)(F)F)(C(F)(F)F)OCCCCCCO.[NH4+] | InChI=1S/C9H13F7O2.2H3N.H2O4S/c10-7(8(11,12)13,9(14,15)16)18-6-4-2-1-3-5-17;;;1-5(2,3)4/h17H,1-6H2;2*1H3;(H2,1,2,3,4)
